US07728029B2
Tetrahydro-4H-pyran-4-one (1.002 g, 10.01 mmol, CAS #29943-42-8, purchased from Fluka) was combined with tert-butyl carbazate (1.322 g, 10.00 mmol) in hexanes (10 mL). The mixture was heated in an oil bath at 65-70° C. for 75 minutes. A new precipitate began to precipitate out of solution before the carbazate completely went into solution. The mixture became very thick with the solid precipitate. Diluted with additional hexanes and heated another 15 minutes. The mixture was cooled to room temperature and concentrated in vacuo. Isopropanol was added to the residue and the mixture was stirred vigorously for 5 minutes and then diluted with ether and chilled. The solid was collected by filtration and dried in vacuo to give N′-(tetrahydro-pyran-4-ylidene)-hydrazinecarboxylic acid tert-butyl ester 1.326 g, 62%). A second crop (0.373 g, 17%) was collected from the mother liquor.

reactant | Tetrahydro-4H-pyran-4-one | 10.01 mmol, 1.002 g | O1CCC(CC1)=O | C5H8O2
reactant | tert-butyl carbazate | 10.00 mmol, 1.322 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
product | N′-(tetrahydro-pyran-4-ylidene)-hydrazinecarboxylic acid tert-butyl ester | 1.326 g, 62% | C(C)(C)(C)OC(=O)NN=C1CCOCC1 | C10H18N2O3
